US06610701B2
Step A: 2-Cyano-benzimidic acid ethyl ester hydrochloride (I-15-1)
A suspension of phthalonitrile (70 g, 0.55 mol) in ethanol (100 ml) and chloroform (200 ml) was warmed and then cooled to 0° C. The reaction mixture was saturated with HCl (g) and then aged at 0° C. for 2 weeks. The resultant precipitate was filtered and washed with chloroform. Dilution of the filtrate with ether produced additional 2-cyano-benzimidic acid ethyl ester hydrochloride.

reactant | phthalonitrile | 0.55 mol, 70 g | C(C=1C(C#N)=CC=CC1)#N | C8H4N2
reactant | HCl | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Cyano-benzimidic acid ethyl ester hydrochloride | Cl.C(C)OC(C1=C(C=CC=C1)C#N)=N | InChI=1S/C10H10N2O.ClH/c1-2-13-10(12)9-6-4-3-5-8(9)7-11;/h3-6,12H,2H2,1H3;1H
